US07560551B2
4-Chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (5.03 g, 16.3 mmol, 1 equiv), 2-chlorpyridine-3-boronic acid (4.36 g, 27.7 mmol, 1.7 equiv), palladium acetate (183 mg, 0.815 mmol, 5 mol %), 2-(dicyclohexylphosphino)biphenyl (571 mg, 1.63 mmol, 10 mol %), and finely ground anhydrous K3PO4 (10.4 g, 48.9 mmol, 3 equiv) were added into a sealed tube. The tube was purged with argon for 5 minutes. Dioxane (30 mL) was added via syringe under a positive argon flow. The tube was sealed and the reaction was stirred at RT for 5 minutes. Then the tube was placed in a preheated oil bath at 110° C. for 2 h. The reaction was cooled down to room temperature. The content was filtered through a plug of celite with an aid of diethyl ether. The filtrated was concentrated under reduced pressure. The product was purified by column chromatography using a mixture of 95:5 Hex:Et2O as eluent. The product, 4-(2-chloropyridine-3-yl)-1-(triisopropylsilyl)-1H -pyrrolo[2,3,b]pyridine was obtained as a light yellow solid. 1H NMR (Varian, 300 MHz, CDCl3) ppm: 8.35 (d, J=4.7 Hz, 1H), 8.30−8.28 (m, 1H), 8.10−8.03 (m, 1H), 7.40−7.30 (m, 2H), 7.15 (dd, J=4.3, 1.7 Hz, 1H), 6.54 (dd, J=3.6, 1.9 Hz, 1H), 1.89 (sept, J=7.4 Hz, 3H), 1.15 (d, J=7.4 Hz, 18H).

reactant | 4-Chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 16.3 mmol, 5.03 g, 1 equiv | ClC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25ClN2Si
reactant | 2-chlorpyridine-3-boronic acid | 27.7 mmol, 4.36 g, 1.7 equiv | ClC1=NC=CC=C1B(O)O | C5H5BClNO2
reactant | 2-(dicyclohexylphosphino)biphenyl | 1.63 mmol, 571 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | K3PO4 | 48.9 mmol, 10.4 g, 3 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.815 mmol, 183 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(2-chloropyridine-3-yl)-1-(triisopropylsilyl)-1H -pyrrolo[2,3,b]pyridine | ClC1=NC=CC=C1C1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C21H28ClN3Si
